US07423050B2
18. 2,4,6-Trifluoro-N-[6-(1-ethylpiperidin-4-ylcarbonyl)-pyridin-2-yl]-benzamide
Mix 2,4,6-trifluoro-N-[6-(piperidin-4-ylcarbonyl)-pyridin-2-yl]-benzamide (26 mg), acetaldehyde (42 mg), sodium cyanoborohydride (10 mg) and trifluoroacetic acid (16.4 mg) in methanol (2 mL) in a sealed tube and heat in an oil bath at 90° C. overnight. Dilute with methanol and load on a SCX column (10 g), wash with methanol, elute the product with 2M NH3-methanol, evaporate, purify on a silica gel column (4 g, solvent: dichloromethane-2M NH3 in methanol, gradient) to obtain the title compound (8.4 mg). Mass spectrum (electrospray) m/z=392 (M+1); 1H NMR (CDCl3): 8.51 (d, 1H), 8.42 (br, 1H), 7.92 (t, 1H), 7.82 (dd, 1H), 6.84 (m, 2H), 3.63 (m, 1H), 3.02 (m, 2H), 2.44 (m, 2H), 2.04 (m, 2H), 1.87 (m, 4H), 1.60 (m, 5H), 1.11 (t, J=6.8 Hz, 3H).

reactant | 2,4,6-trifluoro-N-[6-(piperidin-4-ylcarbonyl)-pyridin-2-yl]-benzamide | 26 mg | FC1=C(C(=O)NC2=NC(=CC=C2)C(=O)C2CCNCC2)C(=CC(=C1)F)F | C18H16F3N3O2
reactant | acetaldehyde | 42 mg | C(C)=O | C2H4O
reactant | sodium cyanoborohydride | 10 mg | C(#N)[BH3-].[Na+]
reactant | trifluoroacetic acid | 16.4 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | methanol | 2 mL | CO | CH4O
product | 2,4,6-Trifluoro-N-[6-(1-ethylpiperidin-4-ylcarbonyl)-pyridin-2-yl]-benzamide | 8.4 mg | FC1=C(C(=O)NC2=NC(=CC=C2)C(=O)C2CCN(CC2)CC)C(=CC(=C1)F)F | C20H20F3N3O2
